US08629133B2
Tert-butyl {(3R,6S)-6-[2-(1H-benzotriazol-1-yloxy)-2-oxoethyl]tetrahydro-2H-pyran-3-yl}carbamate
Concentrated hydrochloric acid (40 ml) was added to the compound (1.99 g, 8.28 mmol) obtained in Step 1 of Reference Example 49, concentrated sulfuric acid (20 ml) was added under ice cooling and then the resulting mixture was stirred at 100° C. for 2 hours. Ice (300 g) was added to the reaction mixture under ice cooling and then the resulting mixture was rendered basic by gradual addition of sodium bicarbonate (84 g). The reaction mixture was diluted with dioxane (400 ml), di-t-butyl dicarbonate (11.5 g, 53.0 mmol) was added under ice cooling and then the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was rendered acidic by addition of citric acid (53 g), followed by extraction with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue obtained was dissolved in methylene chloride (20 ml). 1-Hydroxybenzotriazole (2.24 g, 16.6 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.17 g, 16.5 mmol) were added and the resulting mixture was stirred at room temperature for 24 hours. Brine was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and brine in that order and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue obtained was purified by silica gel column chromatography [methanol:chloroform=5:95 (v/v)] to give 2.27 g (73%) of the title compound as a solid.

reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 84 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 53.0 mmol, 11.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 53 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 1-Hydroxybenzotriazole | 16.6 mmol, 2.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 16.5 mmol, 3.17 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | Tert-butyl {(3R,6S)-6-[2-(1H-benzotriazol-1-yloxy)-2-oxoethyl]tetrahydro-2H-pyran-3-yl}carbamate | 2.27 g, 73% | N1(N=NC2=C1C=CC=C2)OC(C[C@@H]2CC[C@H](CO2)NC(OC(C)(C)C)=O)=O | C18H24N4O5
